US04920120
Ethyl 2,6-dichloro-5-fluoronicotinate (Chem. Pharm. Bull. 35(6), 2280 (1987)) was treated with lithium diisopropylamide and quenched with methyl iodide to give, upon work-up, ethyl 2,6-dichloro-5-fluoro-4-methylnicotinate. This material was hydrolyzed to give the corresponding acid which was elaborated in the usual manner to give 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-5-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid. 7-chloro-1-cyclopropyl-5-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid was synthesized in the same manner.

reactant | Ethyl 2,6-dichloro-5-fluoronicotinate | ClC1=C(C(=O)OCC)C=C(C(=N1)Cl)F | C8H6Cl2FNO2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
product | ethyl 2,6-dichloro-5-fluoro-4-methylnicotinate | ClC1=C(C(=O)OCC)C(=C(C(=N1)Cl)F)C | C9H8Cl2FNO2
